US07632829B2
1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2,2-diethoxy-ethyl)-[1,4]diazepan-5-one
A solution of 5.02 g (18.00 mmol) of 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one in 140 ml of DMA was treated at RT with 0.86 g (19.80 mmol) of NaH (55% in oil) in four portions. After 1 h 3.72 ml (21.60 mmol) of 2-bromo-1,1-diethoxy-ethane were added over 30 min. The reaction was stirred over night and heated for 1 h at 75° C. The reaction was cooled and neutralized with cold aqueous saturated NaHCO3 and extracted with Et2O (3×). The organic phases were washed with aqueous saturated NaHCO3, aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (CH2Cl2/MeOH 99:1 to 98:2) to yield 1.87 g (26%) of the title compound as a yellow viscous oil. MS: 395.4 (MH+, Cl).

reactant | 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | 18.00 mmol, 5.02 g | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCNC(CC1)=O | C14H15ClN2O2
reactant | NaH | 19.80 mmol, 0.86 g | [H-].[Na+]
reactant | 2-bromo-1,1-diethoxy-ethane | 21.60 mmol, 3.72 ml | BrCC(OCC)OCC | C6H13BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMA | 140 ml | CC(=O)N(C)C | C4H9NO
product | 1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2,2-diethoxy-ethyl)-[1,4]diazepan-5-one | 1.87 g, 26% | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CC(OCC)OCC | C20H27ClN2O4
